US03956295
A suspension of 0.3 g. of lithium aluminum hydride in 5 ml. of absolute tetrahydrofuran is combined dropwise with 0.560 g. of the ethyl ester of 7-chloro-8-methylcarbazole-1-carboxylic acid, dissolved in 10 ml. of absolute tetrahydrofuran; the mixture is agitated for one hour at room temperature. Then, the reaction mixture is heated for one hour under reflux, allowed to cool, diluted with 20 ml. of ethyl acetate, mixed under cooling dropwise with hydrochloric acid, and the organic phase is separated, washed, and concentrated under vacuum. The residue is recrystallized from toluene, thus obtaining, in a 95% yield, 7-chloro-1-hydroxymethyl-8-methylcarbazole, m.p. 187° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 7-chloro-8-methylcarbazole-1-carboxylic acid | ClC1=CC=C2C=3C=CC=C(C3NC2=C1C)C(=O)O | C14H10ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-1-hydroxymethyl-8-methylcarbazole | 95% yield | ClC1=CC=C2C=3C=CC=C(C3NC2=C1C)CO | C14H12ClNO
